US07384967B2
To a solution of 2-phenyl-benzo[d][1,3]oxazin-4-one (5 mmol) in dry CH2Cl2 (20 mL) was added 1N solution of aryl magnesium bromide in THF (5 mL) at 0° C. The mixture was stirred at room temperature for 2 h and poured into water (30 mL). The aqueous layer was extracted with ethyl acetate (3×30 mL) and was washed with water (3×50 mL), brine (1×50 mL), dried (anhydrous Na2SO4) and concentrated in vacuo to afford N-(2-benzoyl-phenyl)-benzamide in 60–70% yield.

reactant | 2-phenyl-benzo[d][1,3]oxazin-4-one | 5 mmol | C1(=CC=CC=C1)C=1OC(C2=C(N1)C=CC=C2)=O | C14H9NO2
reactant | water | 30 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-benzoyl-phenyl)-benzamide | 60–70% yield | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C20H15NO2
